US04564386
3-Methyl-4-(trifluoromethanesulfonamido)benzenesulfonyl chloride (1.5 g) was added to tetrahydrofuran (40 ml) containing t-butylamine (0.65 g), and the resultant mixture was allowed to stand at room temperature overnight. The reaction mixture was concentrated and extracted with chloroform. The extract was washed with 5% hydrochloric acid and water in order, dried over anhydrous magnesium sulfate and concentrated. The residue was recrystallized from benzene and then from toluene to give 0.57 g of N-t-butyl-3-methyl-4-(trifluoromethanesulfonamido)benzenesulfonamide. M.P., 139.5°-140.5° C.

reactant | 3-Methyl-4-(trifluoromethanesulfonamido)benzenesulfonyl chloride | 1.5 g | CC=1C=C(C=CC1NS(=O)(=O)C(F)(F)F)S(=O)(=O)Cl | C8H7ClF3NO4S2
reactant | t-butylamine | 0.65 g | C(C)(C)(C)N | C4H11N
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | N-t-butyl-3-methyl-4-(trifluoromethanesulfonamido)benzenesulfonamide | 0.57 g | C(C)(C)(C)NS(=O)(=O)C1=CC(=C(C=C1)NS(=O)(=O)C(F)(F)F)C | C12H17F3N2O4S2
